US06806265B2
e) Ethyl 3-{4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylphenyl}-5-isoxazolecarboxylate
DEAD (55 μL, 0.35 mmol) was added over 30 min to a solution of 11-ethyl-5,11-dihydro-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (70.0 mg, 0.23 mmol), ethyl 3-(4-hydroxy-3-methylphenyl)-5-isoxazolecarboxylate (86.5 mg, 0.35 mmol) and PPh3 (91.8 mg, 0.35 mmol) in THF (2 mL) at 25° C. The reaction mixture was stirred at 25° C. for 18 h. The mixture was concentrated under reduced pressure. The residue was purified by flash chromatography (CH2Cl2:EtOAc, 10:1) to give the title compound (55 mg, 45% yield).

reactant | DEAD | 0.35 mmol, 55 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 11-ethyl-5,11-dihydro-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 0.23 mmol, 70.0 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCO)=O)C)C=CC=N2 | C16H18N4O2
reactant | ethyl 3-(4-hydroxy-3-methylphenyl)-5-isoxazolecarboxylate | 0.35 mmol, 86.5 mg | OC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)OCC)C | C13H13NO4
reactant | PPh3 | 0.35 mmol, 91.8 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | Ethyl 3-{4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylphenyl}-5-isoxazolecarboxylate | 55 mg, 45% yield | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=C(C=C(C=C3)C3=NOC(=C3)C(=O)OCC)C)=O)C)C=CC=N2 | C29H29N5O5
